US04501615
682 grams of a 60 percent aqueous solution of etidronic acid was added slowly to a stirred slurry of 400 grams zinc oxide in 1.45 Kg distilled water. A dense white amorphous precipitate was produced and settled when agitation had stopped to leave a clear liquor. The reaction was exothermic. The mixture was filtered and the precipitate was washed with distilled water and dried at 110° C. 863 grams of a zinc etidronate having a zinc to etidronate molar ratio of 2.4:1 was obtained.

reactant | etidronic acid | CC(O)(P(=O)(O)O)P(=O)(O)O | C2H8O7P2
reactant | zinc oxide | 400 grams | [O-2].[Zn+2]
product | zinc etidronate | 863 grams | [Zn].CC(O)(P(=O)(O)O)P(=O)(O)O | InChI=1S/C2H8O7P2.Zn/c1-2(3,10(4,5)6)11(7,8)9;/h3H,1H3,(H2,4,5,6)(H2,7,8,9);
